US07462630B2
Synthesis of N-{2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl}-2-methyl-1-propanamine hydrochloride
128.5 mg (0.264 mmol) of t-butyl 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl(isobutyl)carbamate was dissolved in 1 ml of 1,4-dioxane. 0.5 ml of 4 N hydrochloric acid/1,4-dioxane solution was added to the obtained solution, and they were stirred overnight. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture. After the extraction with ethyl acetate 3 times, the extract was dried over anhydrous sodium sulfate and then the solvent was evaporated under reduced pressure. The residue was purified by the silica gel chromatography (hexane:ethyl acetate=89:11 to 65:35). The solvent was evaporated under reduced pressure, and the residue was dissolved in 2 ml of diethyl ether. 4 N hydrochloric acid/ethyl acetate solution was added to the obtained solution. The precipitates thus formed were taken by the filtration and then washed with diethyl ether. After drying under reduced pressure, the title compound was obtained.

reactant | t-butyl 2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl(isobutyl)carbamate | 0.264 mmol, 128.5 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CN(C(OC(C)(C)C)=O)CC(C)C)=O | C31H38N2O3
reactant | hydrochloric acid 1,4-dioxane | 4 N, 0.5 ml | Cl.O1CCOCC1
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | N-{2-[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-2-oxoethyl}-2-methyl-1-propanamine hydrochloride | Cl.C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(CNCC(C)C)=O | InChI=1S/C26H30N2O.ClH/c1-19(2)17-27-18-25(29)28-15-13-22(14-16-28)26-23-9-5-3-7-20(23)11-12-21-8-4-6-10-24(21)26;/h3-12,19,27H,13-18H2,1-2H3;1H
